US05834401
Preparation of ethyl 2-(5-phenylthiazolidin-4-on-3-yl)isobutyrate (Compound No. D-2)
Triethylamine (3 g) was added to a suspension of ethyl 2-aminoisobutyrate hydrochloride (5 g) in toluene (60 mL) at room temperature. 2-Mercaptophenylacetic acid (6.44 g) was added to the mixture, which was then stirred at room temperature. After 10 minutes, a 35% formaldehyde aqueous solution (2.61 g) was added dropwise to the mixture. After the addition was completed, a catalytic amount of p-toluenesulfonic acid was added, and the mixture was allowed to react under heating at reflux for 4 hours, while water generated was excluded by azeotropic distillation from the reaction system. The reaction mixture was cooled to room temperature, to which ethyl acetate was added, and was then washed with a saturated sodium hydrogencarbonate aqueous solution and a saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled under reduced pressure to give 5.49 g of the title compound as viscous oil.

reactant | ethyl 2-aminoisobutyrate hydrochloride | 5 g | Cl.NC(C(=O)OCC)(C)C
reactant | 2-Mercaptophenylacetic acid | 6.44 g | SC1=C(C=CC=C1)CC(=O)O | C8H8O2S
reactant | formaldehyde | 2.61 g | C=O | CH2O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | Triethylamine | 3 g | C(C)N(CC)CC | C6H15N
product | ethyl 2-(5-phenylthiazolidin-4-on-3-yl)isobutyrate | 5.49 g | C1(=CC=CC=C1)C1C(N(CS1)C(C(=O)OCC)(C)C)=O | C15H19NO3S
